US08895596B2
Step B: Ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate.
A solution of ethyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate (0.350 g, 0.595 mmol), biphenylboronic acid (0.130 g, 0.654 mmol), and Pd(PPh3)4 (0.027 g, 0.024 mmol) in 6 mL of DMF was treated with a 1 M solution of K2CO3 (1.20 mL). The resulting yellow solution was heated at 120° C. for 45 min, and then diluted with EtOAc and H2O. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by flash chromatography (0-15% then 15-20% then 20% EtOAc/hexanes) provided the desired product as a white solid. LCMS: calculated for C39H32F2N2O3 614.68, observed ink 615.1 (M+H)+ (Rt 2.79/4 min).

reactant | ethyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | 0.595 mmol, 0.350 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)I)F)OC2CC(C2)C(=O)OCC)C2=CC=CC=C2 | C27H23F2IN2O3
reactant | biphenylboronic acid | 0.654 mmol, 0.130 g | B(C=1C=CC(=CC1)C=2C=CC=CC2)(O)O | C12H11BO2
reactant | K2CO3 | 1.20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd(PPh3)4 | 0.024 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CC(C2)C(=O)OCC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C39H32F2N2O3
